US03992535
3.15 ml of 1 N sodium hydroxide (3.15 millimols) were added dropwise to a suspension of 1.2 gm (3 millimols) of N-(3-chloro-phenyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide in 100 ml of methanol and 1.7 gm (12 millimols) of methyl iodide. The resulting mixture was stirred at room temperature for 72 hours, and was then evaporated to dryness in vacuo. The residue was washedwith a small quantity of water, and the remaining solid matter was recrystallized from ethylene chloride, yielding 0.8 gm (64% of theory) of N-(3-chloro-phenyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 248°-249° C (decomp.).

reactant | sodium hydroxide | 3.15 millimols, 1 N, 3.15 ml | [OH-].[Na+]
reactant | N-(3-chloro-phenyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 3 millimols, 1.2 gm | ClC=1C=C(C=CC1)NC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C19H13ClN2O4S
reactant | methyl iodide | 12 millimols, 1.7 gm | CI | CH3I
solvent | methanol | 100 ml | CO | CH4O
product | N-(3-chloro-phenyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 0.8 gm, 64% | ClC=1C=C(C=CC1)NC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C20H15ClN2O4S
